reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([C-:6]=[N+:7]=[C:5]([H:14])[H:16])([H:13])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],108.461485526717
[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([N+:7]#[C-:6])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],39.3385571009476
[O:1]([C:2][C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],27.1002439593858
[C:1]([C:2](=[O:3])[C:4]([C:5]([H:13])([H:14])[H:15])([H:10])[H:12])([H:7])([H:8])[H:9].[O:6]([H:11])[H:16]>>[C:1]([C@@:2]([O:3][H:11])([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])[H:10])([H:7])([H:8])[H:9],76.7220455347094
[O:1]=[C:2]=[C:3]=[C:4]([C:5](=[O:6])[H:8])[H:7]>>[O:1]=[C:2]([C:3]#[C:4][C:5](=[O:6])[H:8])[H:7],81.21226645111264
[C:1]1([H:7])([H:8])[N:2]([H:10])[C@:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C:5][N:6]1[H:9]>>[C:1]([N:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]#[N:6])[H:11])[H:10])([H:7])([H:8])[H:9],45.3516177725891
[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C-:5]#[O+:6].[O:1]([C:2]([C:3]([N:4]([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],83.9578986443294
[N:1]([C:2](=[O:3])[C:4]#[C:5][H:8])([H:6])[H:7]>>[N:1]([C:2]#[C:4][C:5](=[O:3])[H:8])([H:6])[H:7],79.7491314721398
[C:1]([C@@:2]1([H:10])[C@@:3]2([H:11])[O:4][C:5]([H:12])([H:13])[C:6]([H:8])([H:14])[C@@:7]12[H:15])[H:9]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C@@:3]3([H:11])[O:4][C:5]([H:12])([H:13])[C@:6]1([H:14])[C@@:7]23[H:15],29.365134587081094
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7]>>[O:1]([C:2][C:3]([C:4]([C:5](=[O:6])[H:12])([H:8])[H:11])([H:9])[H:10])[H:7],55.3721862513121
[C:1]1([H:7])([H:9])[C@:2]([C:3](=[O:4])[H:11])([H:10])/[C:5]1=[N:6]/[H:8]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],77.1487794716017
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7]>>[C:5](#[N:6])[H:9].[O:1]([C:2](=[C:3]=[O:4])[H:8])[H:7],78.98940309859908
[C:1]([O:2][C:3]([C:4]([C-:6]=[N+:7]=[C:5]([H:14])[H:16])([H:13])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],57.7714027517841
[C:1]([C:2]([C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[C:3](=[N:4][H:14])([H:12])[H:13]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],72.95834049125281
[O:1]([C:2]1([C:5](=[O:6])[H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1]([O:6][C:5](=[C:2]1[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:12])[H:7],130.400539415661
[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1](=[C:2])[H:7].[O:3]([C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8],73.3655232403742
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C@:2]([C:3]([H:12])([H:13])[H:14])([H:11])[C@@:4]1([C:5]([H:16])([H:17])[H:18])[H:15].[C:6](#[N:7])[H:8],117.297169260589
[C:1](=[C:2]([C:6](=[C:5]([H:12])[H:13])[H:14])[H:9])([H:7])[H:8].[C:3](=[O:4])([H:10])[H:11]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])([H:13])[C@@:6]12[H:14],67.9166630731817
[C:1]([C@@:2]1([H:10])[C@:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C@:5]1([O:6][H:16])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([H:10])[C@@:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C:5]1)([H:7])([H:8])[H:9].[O:6]([H:15])[H:16],82.1996961876212
[C:1](=[C:2]1[O:3][C@:6]([O:7][H:10])([H:11])[C:4]1=[O:5])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10],43.9383301573205
[C:1]([C:2]([N:3]([C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4](=[O:5])=[O:6]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],81.77095360664266
[N:1]([N:7]=[C:6]=[C:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9],62.50456819155771
[C+:1]([N:2]([C@:3]1([O-:4])[C@:5]([C:6]([H:13])([H:14])[H:15])([H:12])[C:7]1([H:17])[H:18])[H:11])([H:9])[H:10].[H:8][H:16]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],17.081404913726303
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:4](\[C:5]([O:6][H:16])([H:14])[H:15])[H:13])[H:10])([H:7])([H:8])[H:9].[O:3]([H:11])[H:12],67.4089495802787
